US08008317B2
To a partial solution of 1-[4-(1,3-dioxolan-2-yl)phenyl]-2-phenylethanone (997 mg, 3.72 mmol) and tert-butyl (2-chloro-3-formylpyridin-4-yl)carbamate (924 mg, 3.6 mmol) in dry methanol (14 mL) was added 25 wt % sodium methoxide/methanol (2.5 mL, 11.4 mmol). The reaction mixture was warmed at 65° C. for four hours. The cooled reaction was concentrated to remove the methanol and the residue was partitioned between water and ethyl acetate. The organic layer was dried (Na2SO4), filtered and evaporated. The residue was triturated with cold ether to give pure 2-[4-(1,3-dioxolan-2-yl)phenyl]-5-methoxy-3-phenyl-1,6-naphthyridine. The mother liquors were purified by chromatography on silica gel and elution with 20-40% ethyl acetate/hexane gave additional product. 1H-NMR (500 MHz, CDCl3): δ 8.54 (1H, s), 8.23 (1H, d, J=5.9 Hz), 7.55 (1H, d, J=5.9 Hz), 7.48 (2H, d, J=8 Hz), 7.40 (2H, d, J=8 Hz), 7.29-7.30 (3H, m), 7.22-7.25 (2H, m), 4.16 (3H, s), 4.02-411 (4H, 2 m). m/e (m+1): 385.1.

reactant | 1-[4-(1,3-dioxolan-2-yl)phenyl]-2-phenylethanone | 3.72 mmol, 997 mg | O1C(OCC1)C1=CC=C(C=C1)C(CC1=CC=CC=C1)=O | C17H16O3
reactant | tert-butyl (2-chloro-3-formylpyridin-4-yl)carbamate | 3.6 mmol, 924 mg | ClC1=NC=CC(=C1C=O)NC(OC(C)(C)C)=O | C11H13ClN2O3
reactant | sodium methoxide methanol | 11.4 mmol, 2.5 mL | C[O-].[Na+].CO
solvent | methanol | 14 mL | CO | CH4O
product | 2-[4-(1,3-dioxolan-2-yl)phenyl]-5-methoxy-3-phenyl-1,6-naphthyridine | O1C(OCC1)C1=CC=C(C=C1)C1=NC2=CC=NC(=C2C=C1C1=CC=CC=C1)OC | C24H20N2O3
